US04739083
N-(2,6-diethylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide
A mixture of 25.0 g (90.8 m mol) of N-(2,6-diethylphenyl)-3-(N,N-dimethylhydrazono)butyramide and 130 ml of toluene was refluxed, to which a solution of 28.4 g (200 m mol) of 2,2,6-trimethyl-4H-1,3-dioxin-4-one was dropwise added over a period of 30 minutes. The mixture was further refluxed for 2 hours. After distilling off the solvent, 200 ml of ethyl ether was added to the residue. The mixture was well stirred and filtered to remove insoluble material. The filtrate was concentrated and subjected to chromatography to remove high polar impurities. The resultant product was recrystallized from hexane to obtain 20.2 g (Yield 74%) of the title compound.

reactant | N-(2,6-diethylphenyl)-3-(N,N-dimethylhydrazono)butyramide | 25.0 g | C(C)C1=C(C(=CC=C1)CC)NC(CC(C)=NN(C)C)=O | C16H25N3O
reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | 28.4 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-diethylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide | 20.2 g, Yield 74% | C(C)C1=C(C(=CC=C1)CC)NC(=O)C1=C(OC(=CC1=O)C)C | C18H21NO3
